US06331538B1
1-Benzyl-3-benzyloxy-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Using the General Method 5, the reaction of N-benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide (Example M-2, 2.00 g, 6.34 mmol) and 60% NaH in oil (300 mg, 7.52 mmol) with benzyl isocyanate (1.17 mL, 9.51 mmol) in DMA afforded crude product. Recrystallization from chloroform provided 2.15 g of the title compound as a solid, mp 209-210° C.

reactant | N-benzyloxy-2,6-dichloro-5-fluoro-3-pyridinecarboxamide | 6.34 mmol, 2.00 g | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)Cl)Cl | C13H9Cl2FN2O2
reactant | NaH | [H-].[Na+]
reactant | benzyl isocyanate | 9.51 mmol, 1.17 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 1-Benzyl-3-benzyloxy-7-chloro-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 2.15 g | C(C1=CC=CC=C1)N1C(N(C(C2=C1N=C(C(=C2)F)Cl)=O)OCC2=CC=CC=C2)=O | C21H15ClFN3O3
